US07678834B2
25.0 g 4-benzyl-4-dimethylaminocyclohexanone were dissolved in 150 ml analytical grade tetrahydrofuran, 151 ml 1.0 molar phenethylmagnesium chloride solution in THF were added under a nitrogen atmosphere, while cooling in an ice-bath, and the mixture was stirred overnight at room temperature. For working up, 150 ml ammonium chloride solution (20 per cent by weight) were added, while cooling with ice, the phases were separated, the aqueous phase was extracted three times with 80 ml diethyl ether each time, the combined organic phases were extracted three times with 70 ml dilute hydrochloric acid (5 per cent by weight) each time, the combined aqueous extracts were washed with 50 ml diethyl ether, adjusted to pH 9 with ammonia solution (25 per cent by weight) and extracted three times with 80 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. The crude product obtained (32.6 g) was chromatographed over silica gel with diethyl ether/hexane (v/v=1:1). 3.5 g of the nonpolar diastereoisomer of 4-benzyl-4-dimethylamino-1-phenethylcyclohexanol obtained were dissolved in 28 ml 2-butanone, 103 μl water followed by 1.44 ml trimethylchlorosilane were added at room temperature and the mixture was stirred over night at room temperature. The white solid which had precipitated out was filtered with suction, washed with diethyl ether and dried in an oil pump vacuum. 2.47 g of the hydrochloride of the nonpolar diastereoisomer of 4-benzyl-4-dimethylamino-1-phenethylcyclohexanol were obtained.

reactant | 4-benzyl-4-dimethylaminocyclohexanone | 25.0 g | C(C1=CC=CC=C1)C1(CCC(CC1)=O)N(C)C | C15H21NO
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | phenethylmagnesium chloride | 1.0 molar, 151 ml | C(CC1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 4-benzyl-4-dimethylamino-1-phenethylcyclohexanol | C(C1=CC=CC=C1)C1(CCC(CC1)(O)CCC1=CC=CC=C1)N(C)C | C23H31NO
